US05420275
3-Amino-4,5-diethoxycarbonyl-6-(imidazol-1-yl)-2-phenylpyridine
A mixture of 0.379 g of 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine, 0.21 g of imidazole and 15 ml of chloroform was heated under reflux for 8 hours. After the reaction mixture was concentrated, the residue was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After the solvent was distilled off, 5 ml of acetic acid and 0.5 g of reduced iron were added to the residue, and the mixture was stirred at room temperature for 4 hours. After an aqueous solution of sodium hydrogencarbonate was added for neutralization, extraction with ethyl acetate was conducted. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate, followed by filtration with a small amount of silica gel. The filtrate was concentrated under reduced pressure, to give 0.342 g of the title compound as a yellow oily substance.

reactant | 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine | 0.379 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1 | C17H15ClN2O6
reactant | imidazole | 0.21 g | N1C=NC=C1 | C3H4N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Amino-4,5-diethoxycarbonyl-6-(imidazol-1-yl)-2-phenylpyridine | 0.342 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N1C=NC=C1)C1=CC=CC=C1 | C20H20N4O4
